US04138488
Heat 55 g. of the crude 5-(diphenylmethyl)-2-pyridone and 110 ml. of phenylphosphoric dichloride at 200°-210° with stirring for 6 hours. Pour the cooled reaction mixture onto ice, basify with ammonium hydroxide, extract with ethyl ether, dry the ether extracts, and concentrate to a residue. Distill the residue at 160°-175°/0.15 mm. and crystallize the distillate from hexane to obtain 2-chloro-5-(diphenylmethyl)-pyridine, m.p. 69.5°-71°.

reactant | 5-(diphenylmethyl)-2-pyridone | C1(=CC=CC=C1)C(C=1C=CC(NC1)=O)C1=CC=CC=C1 | C18H15NO
reactant | phenylphosphoric dichloride | C1=CC=C(C=C1)OP(=O)(Cl)Cl | C6H5Cl2O2P
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-chloro-5-(diphenylmethyl)-pyridine | ClC1=NC=C(C=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H14ClN
